* \\vmware-host\Shared Folders\Documents\DEV\sck-adc\simetrix files\8.00\RC4558\zuyev_1.4_RC4558 - voltage swing.wxsch
*#SIMETRIX
X1 Vbias R7_P Vdd Vss X1_out RC4558 pinnames: inp inn vsp vsn out
V1 Vdd 0 15
V2 Vss 0 -15
X$V3 Vin 0 TRI_SOURCE pinnames: P N params: _V1=-1 _V2=1 _FREQ=5k _DELAY=0 _DRATIOx100=50 _T_RISE=100u _T_FALL=100u _DAMP_COEF=0 _PWIDTH=0 _OFF_UNTIL_DELAY=0 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=0
V4 Vbias 0 0
R7 R7_P Vin 1K
R8 X1_out R7_P 20k
RL X1_out 0 250
.GRAPH RL#P axisType="auto" persistence=-1 curveLabel="I(RL)" analysis="tran|ac|dc" xLog="auto" yLog="lin"  nowarn=true disabled=false 
.GRAPH Vin axisType="grid" axisName="Linear output range" persistence=-1 curveLabel="Vin" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH X1_out axisType="grid" axisName="Linear output range" persistence=-1 curveLabel="VOut" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH Vdd axisType="grid" axisName="Linear output range" persistence=-1 curveLabel="Vdd" analysis="tran|ac|dc" order="##" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.GRAPH Vss axisType="grid" axisName="Linear output range" persistence=-1 curveLabel="Vss" analysis="tran|ac|dc" order="##" xLog="auto" yLog="auto"  nowarn=true disabled=false 
.TRAN 1m SWEEP DEVICE=RL LIST  100G 10k 2k
.TEMP 25

